US09284308B2
(4-Chloro-2-ethyl-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(1,2-dimethyl-1H-imidazol-5-yl)methanone
A mixture containing (4-chloro-2-ethyl-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(1,2-dimethyl-1H-imidazol-5-yl)methanol (325 mg, 0.601 mmol, Intermediate 25: step a) and manganese dioxide (308 mg, 3.01 mmol) in dioxane (3 mL) was heated to 100° C. After 2 hours, the mixture was cooled to 23° C. Dichloromethane (20 mL) was added and the mixture was filtered through Celite®, rinsing with dichloromethane. Silica gel (5 g) was added to the filtrate and the solvent was removed by rotary evaporation to afford a free-flowing powder. The powder was loaded onto a column of silica gel for purification. Elution with hexanes-ethyl acetate provided the title compound as an off-white solid.

reactant | (4-chloro-2-ethyl-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(1,2-dimethyl-1H-imidazol-5-yl)methanol | ClC1=C(C(=NC2=CC=C(C=C12)C(O)C1=CN=C(N1C)C)CC)CC1=CC=C(C=C1)C(F)(F)F | C25H23ClF3N3O
reactant | Dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | manganese dioxide | 3.01 mmol, 308 mg | [O-2].[O-2].[Mn+4]
product | (4-Chloro-2-ethyl-3-(4-(trifluoromethyl)benzyl)quinolin-6-yl)(1,2-dimethyl-1H-imidazol-5-yl)methanone | ClC1=C(C(=NC2=CC=C(C=C12)C(=O)C1=CN=C(N1C)C)CC)CC1=CC=C(C=C1)C(F)(F)F | C25H21ClF3N3O
